US08202863B2
A mixture of 2-cyclohexyl-pyrimidine-5-carboxylic acid (100 mg, 0.48 mmol), 1-hydroxybenzotriazole (74.2 mg, 0.55 mmol), and PS-DCC (505 mg, 1.28 mmol/g, 0.65 mmol) in DMF (8 mL) is shaken at room temperature for 15 minutes, and aniline (30 mg, 0.32 mmol) is added. The mixture is shaken at room temperature for 18 hours, PS-trisamine (388 mg, 3.75 mmol/g, 1.45 mmol) is added and the mixture is continually shaken at room temperature for 18 hours. The solid is filtered and washed with DCM. The filtrate is concentrated in vacuo to afford 2-cyclohexyl-pyrimidine-5-carboxylic acid phenylamide (45.6 mg, 51%) as a solid. MS: 282 (M+H); IC50=4960 nM.

reactant | 2-cyclohexyl-pyrimidine-5-carboxylic acid | 0.48 mmol, 100 mg | C1(CCCCC1)C1=NC=C(C=N1)C(=O)O | C11H14N2O2
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 74.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.65 mmol, 505 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | aniline | 0.32 mmol, 30 mg | NC1=CC=CC=C1 | C6H7N
reactant | trisamine | 1.45 mmol, 388 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-cyclohexyl-pyrimidine-5-carboxylic acid phenylamide | 45.6 mg, 51% | C1(=CC=CC=C1)NC(=O)C=1C=NC(=NC1)C1CCCCC1 | C17H19N3O
